US07205306B2
5-Chloro-3-(7-chloro-6-fluoro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone and 7-chloro-6-fluoro-5-methoxyindoline as the starting materials. mp 128–130° C.; 1H NMR (300 MHz, CDCl3) δ 6.96 (s, 1 H), 6.79 (d, J=7.3 Hz, 1 H), 4.33 (t, J=7.9 Hz, 2 H), 4.08–4.00 (m, 1 H), 3.86 (s, 3 H), 3.08 (t, J=7.7 Hz, 2 H), 1.94–1.74 (m, 2 H), 1.07–0.97 (m, 1 H), 0.92 (t, J=7.3 Hz, 3 H), 0.80–0.73 (m, 1 H), 0.55–0.44 (m, 2 H), 0.34–0.27 (m, 1 H); HRMS (ESI) calcd for C19H21N3O2Cl2F (M+H)+: 412.0995; found m/z 412.1019.

reactant | 3,5-dichloro-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@H](CC)C1CC1)=O | C10H12Cl2N2O
reactant | 7-chloro-6-fluoro-5-methoxyindoline | ClC=1C(=C(C=C2CCNC12)OC)F | C9H9ClFNO
product | 5-Chloro-3-(7-chloro-6-fluoro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)[C@H](CC)C1CC1)=O)N1CCC2=CC(=C(C(=C12)Cl)F)OC | C19H20Cl2FN3O2
